US08895582B2
To a suspension of 5-(3-fluorophenyl)isoxazole-3-carbohydrazide (22.5 g, 101 mmol) in H2O (2000 mL) and HCl (2 N, 101 mL, 2.0 equiv.) at 0° C. was added a solution of sodium nitrite (13.9 g, 202 mmol, 2.0 equiv.) in H2O (100 mL). The suspension was stirred at RT for 16 h. The precipitate was filtered and washed with H2O. The solid was dried under high vacuum to give 5-(3-fluorophenyl)isoxazole-3-carbonyl azide as a yellow solid (20 g, 85%). LRMS (M+H+) m/z 179.0.

reactant | 5-(3-fluorophenyl)isoxazole-3-carbohydrazide | 101 mmol, 22.5 g | FC=1C=C(C=CC1)C1=CC(=NO1)C(=O)NN | C10H8FN3O2
reactant | HCl | 2 N, 101 mL, 2.0 equiv. | Cl | ClH
reactant | sodium nitrite | 202 mmol, 13.9 g, 2.0 equiv. | N(=O)[O-].[Na+]
solvent | H2O | 2000 mL | O | H2O
solvent | H2O | 100 mL | O | H2O
product | 5-(3-fluorophenyl)isoxazole-3-carbonyl azide | 20 g, 85% | FC=1C=C(C=CC1)C1=CC(=NO1)C(=O)N=[N+]=[N-] | C10H5FN4O2
